US09315501B2
Step 1. 5-Bromo-6-(cyclobutylmethoxy)-1H-benzimidazole
To a suspension of 4-bromo-5-(cyclobutylmethoxy)-2-nitroaniline (0.4967 g, 1.649 mmol) in 1:1 ethyl acetate/methanol (17.2 mL) was added saturated NH4Cl solution (1.9 mL). The mixture was cooled to 0° C. in ice bath, and then zinc powder (0.9 g, 10 mmol) was added in two portions over 2 minutes. The reaction mixture was stirred for 5 min, the ice bath was removed, and the flask was allowed to warm to room temperature. The suspension was then stirred for 1 h at 55° C. The reaction mixture was diluted with CH2Cl2, filtered through a Celite plug, and the filter cake was washed with CH2Cl2. The resulting filtrate was washed with saturated solution of NaHCO3. The aqueous layer was then extracted with CH2Cl2 (50 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated to afford the crude intermediate as a dark purple oil. To a solution of the crude intermediate in THF (20 mL) was added ethyl orthoformate (0.88 mL, 5.3 mmol) and p-toluenesulfonic acid monohydrate (54.5 mg, 0.286 mmol). The mixture was heated for 1 h at 55° C. The reaction mixture was concentrated, and the resulting residue was diluted with EtOAc (25 ml). This solution was washed with saturated solution of NaHCO3 (25 mL), and the aqueous layer was subsequently extracted with EtOAc (2×20 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. Recrystallization from 9:1 CH2Cl2/MeOH and hexanes afforded the title compound as a yellow solid (0.2280 g) after collection via filtration. The remaining filtrate was concentrated and suspended in MeOH and 1 M solution of HCl (aq) (60 mL). The aqueous solution was extracted with Et2O (3×30 mL). The aqueous layer was then adjusted to pH 9 using solid K2CO3. The aqueous layer was extracted with CH2Cl2 (3×40 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford a second portion of the title compound as a yellow-brown solid (0.1275 g, 77% overall). 1H NMR (400 MHz, CD3OD) δ 8.09 (s, 1H), 7.78 (s, 1H), 7.19 (s, 1H), 4.01 (d, J=6.0 Hz, 2H), 2.91-2.76 (m, 1H), 2.23-2.11 (m, 2H), 2.10-1.93 (m, 4H). LCMS calculated for C12H14BrN2O (M+H)+: m/z=281.0, 283.0. found: 281.0, 283.0.

reactant | 4-bromo-5-(cyclobutylmethoxy)-2-nitroaniline | 1.649 mmol, 0.4967 g | BrC1=CC(=C(N)C=C1OCC1CCC1)[N+](=O)[O-] | C11H13BrN2O3
reactant | NH4Cl | 1.9 mL | [NH4+].[Cl-]
reactant | ethyl orthoformate | 5.3 mmol, 0.88 mL | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | 0.286 mmol, 54.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 10 mmol, 0.9 g | [Zn] | Zn
solvent | ethyl acetate methanol | 17.2 mL | C(C)(=O)OCC.CO
product | 5-Bromo-6-(cyclobutylmethoxy)-1H-benzimidazole | 0.2280 g | BrC1=CC2=C(NC=N2)C=C1OCC1CCC1 | C12H13BrN2O
